US05612286
4. 2-Isocyanato-4-methoxy-6-trifluoromethylpyrimidine
38.3 g of oxalyl chloride (0.3 mol) were added dropwise to a suspension of 2-amino-4-methoxy-6-trifluoromethylpyrimidine (78 mmol) in 100 ml of toluene. The refluxing mixture was stirred for 4 hours, after which the homogeneous solution obtained was subjected to fractional distillation. The title compound (9.9 g; 58% of theory) was obtained as an oil of boiling point 44°-50° C. (0.5 mbar).

reactant | oxalyl chloride | 0.3 mol, 38.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-4-methoxy-6-trifluoromethylpyrimidine | 78 mmol | NC1=NC(=CC(=N1)OC)C(F)(F)F | C6H6F3N3O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Isocyanato-4-methoxy-6-trifluoromethylpyrimidine | 9.9 g, 58% | N(=C=O)C1=NC(=CC(=N1)OC)C(F)(F)F | C7H4F3N3O2
